US05382593
Step B: N-(methoxy)-N-(chloro)phenylacetamide
Dissolve 1.65 g (10 mmol) of N-(methoxy)-phenylacetamide in 30 cm3 of dry chloroform. Place in an ice-bath and maintain at a temperature of 0° C. Subsequently, pour in progressively, using a flask, 1.30 g (1.36 cm3, 12 mmol) of tert-butyl hypochlorite which has previously been dissolved in 20 cm3 of chloroform.

reactant | N-(methoxy)-phenylacetamide | 10 mmol, 1.65 g | CONC(CC1=CC=CC=C1)=O | C9H11NO2
reactant | tert-butyl hypochlorite | 12 mmol, 1.36 cm3, 1.30 g | ClOC(C)(C)C | C4H9ClO
solvent | chloroform | 30 cm3 | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 cm3 | C(Cl)(Cl)Cl | CHCl3
product | N-(methoxy)-N-(chloro)phenylacetamide | CON(C(CC1=CC=CC=C1)=O)Cl | C9H10ClNO2
